US07504411B2
To a suspension of 3-(4-bromophenyl)-piperidine-1-carboxylic acid tert-butyl ester (8.0 g, 23.5 mmol), palladium acetate (210 mg, 0.94 mmol), 2-(di-t-butyl phosphino)biphenyl (560 mg, 1.88 mmol), and sodium t-butoxide (3.2 g, 33.3 mmol) in toluene (80 mL) was added cyclohexylamine (2.8 g, 28.2 mmol) at room temperature. After heating at 90° C. for 5 h, the resulting suspension was passed through a Celite column. The filtrate was concentrated under reduced pressure, and the residue was purified by silica gel chromatography eluting 5-25% of ethyl acetate in hexane to afford 3-(4-cyclohexylaminophenyl)-piperidine-1-carboxylic acid tert-butyl ester (6.74 g, 18.8 mmol, 80%) as white crystals.

reactant | 3-(4-bromophenyl)-piperidine-1-carboxylic acid tert-butyl ester | 23.5 mmol, 8.0 g | C(C)(C)(C)OC(=O)N1CC(CCC1)C1=CC=C(C=C1)Br | C16H22BrNO2
reactant | 2-(di-t-butyl phosphino)biphenyl | 1.88 mmol, 560 mg | C(C)(C)(C)P(C1=C(C=CC=C1)C1=CC=CC=C1)C(C)(C)C | C20H27P
reactant | sodium t-butoxide | 33.3 mmol, 3.2 g | CC(C)([O-])C.[Na+]
reactant | cyclohexylamine | 28.2 mmol, 2.8 g | C1(CCCCC1)N | C6H13N
solvent | toluene | 80 mL | C1(=CC=CC=C1)C | C7H8
catalyst | palladium acetate | 0.94 mmol, 210 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 3-(4-cyclohexylaminophenyl)-piperidine-1-carboxylic acid tert-butyl ester | 18.8 mmol, 6.74 g, 80% | C(C)(C)(C)OC(=O)N1CC(CCC1)C1=CC=C(C=C1)NC1CCCCC1 | C22H34N2O2
